US07547698B2
A mixture of 5-chloro-2-nitrophenylamine (3.000 g, 17.38 mmol), piperazin-1-yl-(2-trifluoromethylphenyl)methanone (5.360 g, 20.80 mmol) and cesium carbonate (11.32 g, 34.76 mmol) was heated at 140° C. in anhydrous DMSO (15 mL) for 12 h. The mixture was cooled and poured over ice water. The solid product obtained was extracted with ethyl acetate. The organic extracts were combined, dried over anhydrous sodium sulphate, concentrated in vacuo. The residue was purified by column chromatography to obtain the product, [4-(3-amino-4-nitrophenyl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone, in 79% yield (6.800 g). 1H NMR (300 MHz, CDCl3) δ 8.01 (d, 1H, J=9.6 Hz), 7.72 (d, 1H, J=7.9 Hz), 7.62 (t, 1H, J=7.1 Hz), 7.54 (t, 1H, J=7.4 Hz), 7.34 (d, 1H, J=7.3 Hz), 6.22 (dd, 1H, J=2.6,9.7 Hz), 6.15 (br. s, 2H), 5.94 (d, 1H, J=2.6 Hz), 4.05-3.93 (m, 1H), 3.90-3.80 (m, 1H), 3.50-3.40 (m, 2H), 3.35-3.20 (m, 4H). MS (ES+) m/z 395.1 (M+1).

reactant | 5-chloro-2-nitrophenylamine | 17.38 mmol, 3.000 g | ClC=1C=CC(=C(C1)N)[N+](=O)[O-] | C6H5ClN2O2
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | 20.80 mmol, 5.360 g | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
reactant | cesium carbonate | 34.76 mmol, 11.32 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | [4-(3-amino-4-nitrophenyl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone | 79% yield | NC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C18H17F3N4O3
